US07223872B2
Introduce 200 g of benzyl (2S)-2,3,4,5,6,7-hexahydro-1H-indole-2-carboxylate and 1.5 liters of dichloromethane into a reactor, then bring the temperature of the reaction mixture to 0° C. and add 107 ml of triethylamine and then 162 g of (2S)-2-[(tert-butoxycarbonyl)amino]propionyl chloride. Subsequently, bring the mixture to ambient temperature. After stirring for 1 hour at that temperature, wash the mixture with water and then with a dilute acetic acid solution. The benzyl (2S)-1-{(2S)-2-[(tert-butoxycarbonyl)amino]propionyl}-2,3-dihydro-1H-indole-2-carboxylate solution so obtained is used as it is in the following Step.

reactant | benzyl (2S)-2,3,4,5,6,7-hexahydro-1H-indole-2-carboxylate | 200 g | N1[C@@H](CC=2CCCCC12)C(=O)OCC1=CC=CC=C1 | C16H19NO2
reactant | dichloromethane | 1.5 liters | ClCCl | CH2Cl2
reactant | (2S)-2-[(tert-butoxycarbonyl)amino]propionyl chloride | 162 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)Cl)C | C8H14ClNO3
solvent | triethylamine | 107 ml | C(C)N(CC)CC | C6H15N
product | benzyl (2S)-1-{(2S)-2-[(tert-butoxycarbonyl)amino]propionyl}-2,3-dihydro-1H-indole-2-carboxylate | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1)C | C24H28N2O5
